US06762180B1
(97) 3-Z-[1-(4-(1-benzyl-imidazol-2-yl)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone and 4-(1-benzyl-imidazol-2-yl)-aniline Rf value: 0.3 (silica gel, methylene chloride/methanol=20:1) C33H26N4O3

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OC)=C(C1=CC=CC=C1)OCC)=O | C21H19NO5
reactant | 4-(1-benzyl-imidazol-2-yl)-aniline | C(C1=CC=CC=C1)N1C(=NC=C1)C1=CC=C(N)C=C1 | C16H15N3
product | 3-Z-[1-(4-(1-benzyl-imidazol-2-yl)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | C(C1=CC=CC=C1)N1C(=NC=C1)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1 | C33H26N4O3
